US06930120B2
2-(3,4-Difluoro-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid
The title compound was prepared from 2-(3,4-difluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester using the method of Example 56. 1H NMR (400 MHz, CDCl3) δ 7.15 (d, 2H, J=8.60 Hz), 7.00 (q, 1H, J=8.99 Hz), 6.79 (d, 2H, J=8.60 Hz), 6.77-6.74 (m, 1H), 6.63-6.61 (m, 1H), 4.12 (t, 2H, J=6.25 Hz), 3.19 (d, 1H, J=14.08 Hz), 3.09 (d, 1H, J=14.08 Hz), 2.97 (t, 2H, J=6.25 Hz), 2.31 (s, 3H), 2.16-2.08 (m, 2H), 1.61-1.35 (m, 8H), 1.39 (s, 3H), 1.29 (s, 3H); MS (ES+) calcd for C29H34NO5F2: Found m/e 514.3 (M+1, 100%).

reactant | 2-(3,4-difluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=C(C=C1)F)F)=O | C18H18F2O4
reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1(CCCCC1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO4S
product | 2-(3,4-Difluoro-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid | FC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2(CCCCC2)C)C)C=CC1F | C29H33F2NO5
